US07253196B2
2-(Cyclooctylamino)-1-thia-3-azaspiro[4.5]dec-2-en-4-one
Synthesis was performed from N-cyclooctylthiourea and methyl 1-bromocyclohexanecarboxylate according to Method D.

reactant | N-cyclooctylthiourea | C1(CCCCCCC1)NC(=S)N | C9H18N2S
reactant | methyl 1-bromocyclohexanecarboxylate | BrC1(CCCCC1)C(=O)OC | C8H13BrO2
product | 2-(Cyclooctylamino)-1-thia-3-azaspiro[4.5]dec-2-en-4-one | C1(CCCCCCC1)NC=1SC2(C(N1)=O)CCCCC2 | C16H26N2OS
